US04859691
Sodium hydride (60% in mineral oil, 276.6 g, 6.92 moles) is added in portions to a solution of imidazole (471 g, 6.92 moles) in dimethylformamide (4 L) over a period of 1 hour. After the addition is complete, the resulting suspension is stirred for 1 hour at ambient temperature. A solution of 5-chloro-3-bromomethyl-1,2-benzisoxazole (1.57 kg, 6.37 moles) in dimethylformamide (3 L) is then added over a period of 30 minutes, during which time there is an exotherm from 24° C. to 68° C. On completion of this addition, the reaction mixture is stirred and heated at 90° C. for 2 hours. The solvent is then removed in vacuo and the residue is taken up in methylene chloride (4 L). The resulting suspension is washed with water (2×2 L), which dissolves the solid material, and the organic solution is then dried over anhydrous sodium sulfate (1 kg), filtered and evaporated to give 5-chloro-3-[(1H-imidazol-1-yl)methyl]-1,2-benzisoxazole, m.p. 100°-102° C.; hydrochloride salt, m.p. 201°-203° C.

reactant | Sodium hydride | 6.92 moles, 276.6 g | [H-].[Na+]
reactant | imidazole | 6.92 moles, 471 g | N1C=NC=C1 | C3H4N2
reactant | 5-chloro-3-bromomethyl-1,2-benzisoxazole | 6.37 moles, 1.57 kg | ClC=1C=CC2=C(C(=NO2)CBr)C1 | C8H5BrClNO
solvent | dimethylformamide | 4 L | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 L | CN(C=O)C | C3H7NO
product | 5-chloro-3-[(1H-imidazol-1-yl)methyl]-1,2-benzisoxazole | ClC=1C=CC2=C(C(=NO2)CN2C=NC=C2)C1 | C11H8ClN3O
